US06242443B1
3-Cyclobutylamino-6,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide
6,7-Dichloro-3-(imidazol-1-yl)-4H-1,2,4-benzothiadiazine 1,1-dioxide monohydrate was treated with cyclobutylamine according to the general procedure Method D to give the title compound; m.p. 320-326° C.; IR (KBr): 3290, 3163, 3068, 2979, 2952, 1631, 1580, 1556, 1460, 1331, 1251, 1166, 1152, 1137, 1128 cm−1.

reactant | 6,7-Dichloro-3-(imidazol-1-yl)-4H-1,2,4-benzothiadiazine 1,1-dioxide monohydrate | O.ClC=1C(=CC2=C(NC(=NS2(=O)=O)N2C=NC=C2)C1)Cl
reactant | cyclobutylamine | C1(CCC1)N | C4H9N
product | 3-Cyclobutylamino-6,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | C1(CCC1)NC1=NS(C2=C(N1)C=C(C(=C2)Cl)Cl)(=O)=O | C11H11Cl2N3O2S
